US07101886B2
N-{4-[2-(4-BENZO[D]ISOTHIAZOL-3-YL-PIPERAZIN-1-YL)-ETHYL]-2-METHYL-PHENYL}-BENZAMIDE HYDROCHLORIDE
To a solution of 4-[2-(4-benzo[d]isothiazol-3-yl-piperazin-1-yl)-ethyl]-2-methyl-phenylamine Hydrochloride (0.224 g, 0.6 mmol) in dry THF (30 mL) was added triethylamine (0.167 mL, 1.20 mmol), followed by dropwise addition of benzoyl chloride (0.07 mL, 0.6 mmol). The reaction was stirred vigorously under N2 blanket at room temperature for 2 h. The reaction was quenched with H2O (25 mL) and diluted with ethylacetate (25 mL). The layers were separated and the organics washed with 1 N HCl (20 mL), sat. Na2CO3 (20 mL), brine (20 mL), dried (MgSO4), and concentrated to a residue. After chromatographic purification (5% MeOH/CH2Cl2), N-{4-[2-(4-benzo[d]isothiazol-3-yl-piperazin-1-yl)-ethyl]-2-methyl-phenyl}-benzamide was precipitated as its hydrochloride salt from dioxane/HCl(gas) treatment (0.162 g, 0.355 mmol). Yield=59%. 100% purity at 254 nM; LCMS (APCI): 457.2 [M+H]+, 1H NMR (400 MHz, DMSO-d6) δ 10.81 (bs, 1H), 9.88 (s, 1H), 8.13 (d, J=8.36 Hz, 1H), 8.09 (d, J=8.36 Hz, 1H), 7.95 (d, J=8.36 Hz, 1H), 7.62–7.42 (m, 5H), 7.30 (d, J=8.02 Hz, 1H), 7.18 (s, 1H), 7.12 (d, J=8.02 Hz, 1H), 4.10 (bd, J=12.32 Hz, 2H), 3.68 (bd, J=12.32 Hz, 2H), 3.50–3.33 (m, 6H), 3.32 (s, H2O), 3.10–3.00 (m, 2H), 2.47 (DMSO), 2.21 (s, 3H).

reactant | 4-[2-(4-benzo[d]isothiazol-3-yl-piperazin-1-yl)-ethyl]-2-methyl-phenylamine Hydrochloride | 0.6 mmol, 0.224 g | Cl.S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCC2=CC(=C(C=C2)N)C
reactant | triethylamine | 1.20 mmol, 0.167 mL | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.6 mmol, 0.07 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | N-{4-[2-(4-BENZO[D]ISOTHIAZOL-3-YL-PIPERAZIN-1-YL)-ETHYL]-2-METHYL-PHENYL}-BENZAMIDE HYDROCHLORIDE | Yield=59% | Cl.S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCC2=CC(=C(C=C2)NC(C2=CC=CC=C2)=O)C | InChI=1S/C27H28N4OS.ClH/c1-20-19-21(11-12-24(20)28-27(32)22-7-3-2-4-8-22)13-14-30-15-17-31(18-16-30)26-23-9-5-6-10-25(23)33-29-26;/h2-12,19H,13-18H2,1H3,(H,28,32);1H
